US07951805B2
A stirred mixture of 6-chloropyridazin-3-ylamine (0.95 g, 7.28 mmol) and (4-fluorophenyl)piperidin-4-ylmethanone hydrochloride (3.22 g, 10.92 mmol) was heated at 150° C. in N-methylpyrrolidinone (125 mL) for 24 hours. The solvent was evaporated in vacuo and the residue was treated with 1 N NaOH solution and extracted with ethyl acetate. The organic layer was separated, dried over Na2SO4 and concentrated. The residue was purified by column chromatography to afford [1-(6-aminopyridazin-3-yl)piperidin-4-yl]-(4-fluorophenyl)methanone in 46% yield (1.00 g, 3.33 mmol).

reactant | 6-chloropyridazin-3-ylamine | 7.28 mmol, 0.95 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | (4-fluorophenyl)piperidin-4-ylmethanone hydrochloride | 10.92 mmol, 3.22 g | Cl.FC1=CC=C(C=C1)C(=O)C1CCNCC1
solvent | N-methylpyrrolidinone | 125 mL | CN1C(CCC1)=O | C5H9NO
product | [1-(6-aminopyridazin-3-yl)piperidin-4-yl]-(4-fluorophenyl)methanone | 46% yield | NC1=CC=C(N=N1)N1CCC(CC1)C(=O)C1=CC=C(C=C1)F | C16H17FN4O
